US07737166B2
2-Cyclopropyl-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-(pyrrol-1-yl)-1,3-benzoxazole-4-carbonitrile (#151)
2-Cyclopropyl-7-fluoro-5-methyl-6-(pyrrol-1-yl)-1,3-benzoxazole-4-carbonitrile (I-320) (28 mg, 0.10 mmol) was dissolved in dimethyl sulfoxide (2 ml), then at room temperature, triethylamine (18 μl, 0.13 mmol) and (3S)-3-(dimethylamino)pyrrolidine (17 μl, 0.13 mmol) were added, followed by stirring under nitrogen atmosphere at 100° C. for 5.5 hours. The reaction liquid was cooled to room temperature, then fractionated with ethyl acetate and an aqueous saturated sodium hydrogencarbonate solution. The aqueous layer was further extracted twice with ethyl acetate. The organic layers were combined, washed with saturated brine, and dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, the solvent was evaporated away, and the resulting residue was roughly purified by preparative TLC (eluent, chloroform:methanol=92:8, v/v), and the obtained solid was further purified in slurry with diisopropyl ether. This was dried at 60° C. under reduced pressure for 12 hours to obtain the entitled compound (26.5 mg, 71%) as a white solid.

reactant | 2-Cyclopropyl-7-fluoro-5-methyl-6-(pyrrol-1-yl)-1,3-benzoxazole-4-carbonitrile | 0.10 mmol, 28 mg | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2F)N2C=CC=C2)C)C#N | C16H12FN3O
reactant | triethylamine | 0.13 mmol, 18 μl | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-(dimethylamino)pyrrolidine | 0.13 mmol, 17 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Cyclopropyl-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-(pyrrol-1-yl)-1,3-benzoxazole-4-carbonitrile | 26.5 mg, 71% | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2N2C[C@H](CC2)N(C)C)N2C=CC=C2)C)C#N | C22H25N5O
